US06498251B1
Synthesis Example 44d 2-Piperidin-4-yl-1,2,3,4-tetrahydro-isoquinoline Dihydrobromide
4-(3,4-Dihydro-1H-isoquinolin-2-yl)piperidine-1-carboxylic acid benzyl ester (290 mg, 0.83 mmol) was mixed with 25% hydrobromic acid acetic acid solution (3 ml) and stirred at room temperature for 2 hours. The reaction solution was mixed with toluene, the solvent was removed by evaporation under a reduced pressure, and the thus precipitated crystals were washed with a small amount of cold toluene and collected by filtration to obtain 150 mg (0.40 mmol, 48% in yield) of the title compound. MW 378.15 (C14H22Br2N2); Mass spectrum EI-Ms m/z 216 (M−2HBr)+.

reactant | 4-(3,4-Dihydro-1H-isoquinolin-2-yl)piperidine-1-carboxylic acid benzyl ester | 0.83 mmol, 290 mg | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)N1CC2=CC=CC=C2CC1 | C22H26N2O2
reactant | hydrobromic acid acetic acid | 3 ml | C(C)(=O)O.Br
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 2-Piperidin-4-yl-1,2,3,4-tetrahydro-isoquinoline Dihydrobromide | Br.Br.N1CCC(CC1)N1CC2=CC=CC=C2CC1 | InChI=1S/C14H20N2.2BrH/c1-2-4-13-11-16(10-7-12(13)3-1)14-5-8-15-9-6-14;;/h1-4,14-15H,5-11H2;2*1H
